US07034039B2
To a suspension of methyl 6-benzyloxy-4-(4-chlorophenyl)-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinecarboxylate (5.00 g, 10.5 mmol) in 1,4-dioxane (50 ml) was added an aqueous solution (20 ml) of lithium hydroxide monohydrate (1.32 g, 31.5 mmol). The obtained mixture was refluxed under heating for 24 h. The reaction mixture was poured into water, acidified with 1N hydrochloric acid and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The obtained, crystals were recrystallized from tetrahydrofuran-n-hexane to give 6-benzyloxy-4-(4-chlorophenyl)-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinecarboxylic acid (4.69 g, 96.7%) as crystals.

reactant | methyl 6-benzyloxy-4-(4-chlorophenyl)-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinecarboxylate | 10.5 mmol, 5.00 g | C(C1=CC=CC=C1)OC=1C=C2C(=C(N(C(C2=CC1)=O)CC(C)C)C(=O)OC)C1=CC=C(C=C1)Cl | C28H26ClNO4
reactant | lithium hydroxide monohydrate | 31.5 mmol, 20 ml, 1.32 g | O.[OH-].[Li+]
reactant | water | O | H2O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | 1,4-dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 6-benzyloxy-4-(4-chlorophenyl)-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinecarboxylic acid | 4.69 g, 96.7% | C(C1=CC=CC=C1)OC=1C=C2C(=C(N(C(C2=CC1)=O)CC(C)C)C(=O)O)C1=CC=C(C=C1)Cl | C27H24ClNO4
